US07659279B2
N-(3-Chloro-4-fluorophenyl)-7-methoxy-5-{[(2R)-1-(methoxyacetyl)pyrrolidin-2-yl]methoxy}quinazolin-4-amine
Methoxyacetic acid (27 mg) and 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride hydrate (103 mg) were added sequentially, each in one portion, to a stirred mixture of N-(3-chloro-4-fluorophenyl)-7-methoxy-5-[(2R)-pyrrolidin-2-ylmethoxy]-quinazolin-4-amine (100 mg) in DCM (2 ml) at room temperature. The reaction mixture was stirred for 1 hour and then diluted with DCM (10 ml) and washed with saturated aqueous sodium hydrogen carbonate. The organic layer was dried (MgSO4) and concentrated in vacuo to leave a yellow solid, which was triturated with 1:1 ether/hexanes and filtered to give the title compound as a white solid (97 mg, 82%); NMR Spectrum (DMSO-d6) 9.90 (br s, 1H), 8.40 (s, 1H), 8.15 (m, 1H), 7.65 (m, 1H), 7.40 (m, 1H), 6.80 (m, 2H), 4.60 (m, 1H), 4.50 (m, 1H), 4.25 (m, 1H), 4.0 (m, 3H), 3.95 (s, 3H), 3.50 (m, 21), 3.20 (m, 2H), 2.0-1.85 (m, 4H); Mass spectrum MH+ 475.

reactant | Methoxyacetic acid | 27 mg | COCC(=O)O | C3H6O3
reactant | 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride hydrate | 103 mg | O.[Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | N-(3-chloro-4-fluorophenyl)-7-methoxy-5-[(2R)-pyrrolidin-2-ylmethoxy]-quinazolin-4-amine | 100 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=CC(=C12)OC[C@@H]1NCCC1)OC | C20H20ClFN4O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(3-Chloro-4-fluorophenyl)-7-methoxy-5-{[(2R)-1-(methoxyacetyl)pyrrolidin-2-yl]methoxy}quinazolin-4-amine | 97 mg, 82% | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=CC(=C12)OC[C@@H]1N(CCC1)C(COC)=O)OC | C23H24ClFN4O4
